US07618979B2
Step 3 methyl 4-(methylthio)-1H-pyrrolo[3,2-c]pyridine-2-carboxylate
A solution of methyl (2Z)-2-azido-3-[2-(methylthio)pyridin-3-yl]prop-2-enoate (1.00 g, 4.00 mmol) in mesitylene (50 mL) was heated at 160° C. for a period of 1 h. The reaction mixture was cooled to room temperature then to 0° C., the precipitate was filtered and washed with cold mesitylene to provide the title compound.

reactant | methyl (2Z)-2-azido-3-[2-(methylthio)pyridin-3-yl]prop-2-enoate | 4.00 mmol, 1.00 g | N(=[N+]=[N-])\C(\C(=O)OC)=C/C=1C(=NC=CC1)SC | C10H10N4O2S
solvent | mesitylene | 50 mL | C1(=CC(=CC(=C1)C)C)C | C9H12
product | methyl 4-(methylthio)-1H-pyrrolo[3,2-c]pyridine-2-carboxylate | CSC1=NC=CC2=C1C=C(N2)C(=O)OC | C10H10N2O2S
